US06420605B1
d) 2-Difluoromethoxy-6-fluorobenzamide O-cyclopropylmethyl oxime
0.4 g of 80% pure sodium hydride was added to a solution of 3.0 g of 2-difluoromethoxy-6-fluorobenzamidoxime in 30 ml of dimethylformamide (DMF) at 0 to 5° C. and the mixture was stirred at this temperature for 3 hours. 1.8 g of bromocyclopropylmethane were subsequently added at the same temperature, and stirring was subsequently continued for 2 hours at 5° C. and overnight at room temperature. The batch was stirred into 300 ml of water and extracted three times with in each case 70 ml of cyclohexane. After the cyclohexane had been evaporated, 1.9 g of the desired product were obtained.

reactant | sodium hydride | 0.4 g | [H-].[Na+]
reactant | 2-difluoromethoxy-6-fluorobenzamidoxime | 3.0 g | FC(OC1=C(C(N)=NO)C(=CC=C1)F)F | C8H7F3N2O2
reactant | bromocyclopropylmethane | 1.8 g | BrCC1CC1 | C4H7Br
reactant | water | 300 ml | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-Difluoromethoxy-6-fluorobenzamide O-cyclopropylmethyl oxime | 1.9 g | C1(CC1)CON=C(C1=C(C=CC=C1F)OC(F)F)N | C12H13F3N2O2
